US05070207
1,1,1-Trifluoro-5-methyl-5-[4-(trifluoromethoxy)phenoxy]-3-hexyn-2-one
To a solution of 1.47 g (6 mmol) of 1-(1,1-dimethyl-2-propynyloxy)-4-trifluoromethoxybenzene in 25 ml of tetrahydrofuran cooled to -78° C. is added 2.4 ml of n-butyllithium (2.5M in hexanes). The solution is maintained with stirring for 1 hour. The mixture is treated with 1.70 g (12 mmol, 1.43 ml) of ethyl trifluoroacetate at -78° C. and is allowed to warm to room temperature. After stirring for 1 hour, the mixture is diluted with water and is extracted with ethyl ether (3 times). The combined ethereal extracts are washed with aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and evaporated to give a light oil. Flash chromatography using hexane:ethyl ether (65:35) affords the title compound: IR (film) 2215, 1740 cm-1 ; NMR (CDCl3) δ1.73 (6H, s), 7.16 (4H, m).

reactant | 1-(1,1-dimethyl-2-propynyloxy)-4-trifluoromethoxybenzene | 6 mmol, 1.47 g | CC(C#C)(OC1=CC=C(C=C1)OC(F)(F)F)C | C12H11F3O2
reactant | n-butyllithium | 2.5M, 2.4 ml | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 12 mmol, 1.43 ml, 1.70 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hexane ethyl ether | CCCCCC.C(C)OCC
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1,1-Trifluoro-5-methyl-5-[4-(trifluoromethoxy)phenoxy]-3-hexyn-2-one | FC(C(C#CC(C)(OC1=CC=C(C=C1)OC(F)(F)F)C)=O)(F)F | C14H10F6O3
